US07772244B2
3-(4-Hydroxypiperidin-4-yl)quinolin-2(1H)-one
tert-Butyl 4-hydroxy-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (300 mg, 0.87 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 6 mL). The reaction was stirred 30 min and concentrated. The residue was dissolved in water, extracted with dichloromethane (2×) which were discarded. The aqueous was made basic with solid potassium carbonate. The resulting solid was filtered to give 145 mg (68%) as a white powder. Mass spec.: 245.35 (MH)+.

reactant | tert-Butyl 4-hydroxy-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 0.87 mmol, 300 mg | OC1(CCN(CC1)C(=O)OC(C)(C)C)C=1C(NC2=CC=CC=C2C1)=O | C19H24N2O4
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-Hydroxypiperidin-4-yl)quinolin-2(1H)-one | OC1(CCNCC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O2
